US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with 3-phenylpropyl bromide and sodium carbonate in dimethylformamide there is obtained 3-[4-chloro-2-fluoro-5-(3-phenylpropoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione, 1H-NMR (CDCl3, 400 MHZ): 7.15°-7.34 ppm (m,6H), 6.71 ppm (d,1H), 6.36 ppm (s,1H), 3.96 ppm (t,2H), 3.55 ppm (d,3H), 2.83 ppm (t,2H), 2.10°-2.20 ppm (m,2H):

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[4-chloro-2-fluoro-5-(3-phenylpropoxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OCCCC1=CC=CC=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C21H17ClF4N2O3
